US08685974B2
A mixture of N-(4-bromopyridin-2-yl)-2-cyclopropylacetamide (102 mmol), bis(pinacolato)diboron (133 mmol), potassium acetate (306 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (5.1 mmol) in 500 mL dry dioxane was stirred under argon atmosphere at 80° C. for 3.5 h. The reaction mixture was filtered and washed with dichloromethane. The filtrate was concentrated and washed with diethyl ether to afford 17.2 g 2-cyclopropyl-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]acetamide (56% yield).

reactant | N-(4-bromopyridin-2-yl)-2-cyclopropylacetamide | 102 mmol | BrC1=CC(=NC=C1)NC(CC1CC1)=O | C10H11BrN2O
reactant | bis(pinacolato)diboron | 133 mmol | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 306 mmol | C(C)(=O)[O-].[K+]
solvent | dioxane | 500 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 5.1 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-cyclopropyl-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]acetamide | 17.2 g, 56% yield | C1(CC1)CC(=O)NC1=NC=CC(=C1)B1OC(C(O1)(C)C)(C)C | C16H23BN2O3
